US07034015B2
Preparation 2:2-(2-bromophenyl)-1-methylethyl acetate (Compound 402)
Acetic acid anhydride (1.2 mL) was added to a solution of 1-(2-bromophenyl)-2-propanol (529 mg) in pyridine (1.0 mL) at 20° C. under stirring. The reaction mixture was stirred overnight, then poured into a mixture of water and EtOAc. The aqueous phase was extracted with more EtOAc (×2). The combined organic phases were washed with water (×3), dried (MgSO4), filtered and concentrated in vacuo to afford the title compound as a syrup.

reactant | Acetic acid anhydride | 1.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(2-bromophenyl)-2-propanol | 529 mg | BrC1=C(C=CC=C1)CC(C)O | C9H11BrO
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-bromophenyl)-1-methylethyl acetate | C(C)(=O)OC(CC1=C(C=CC=C1)Br)C | C11H13BrO2
